US07456218B2
2-bromo-5-(2-ethoxyethoxy)-1,3-dimethylbenzene
To a solution of 4-bromo-3,5-dimethylphenol (12 g, 59.7 mmol), potassium iodide (1.5 g, 9.0 mmol) and potassium carbonate (9.9 g, 71.6 mmol) in N,N-dimethylformamide (80 mL) was added 2-chloroethyl ethyl ether (9.7 g, 89.3 mmol) at room temperature with stirring and the mixture was stirred at 70° C. for 2 days. The reaction mixture was cooled and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=19/1) to give the title compound (15.9 g, yield 98%) as a yellow oil.

reactant | 4-bromo-3,5-dimethylphenol | 59.7 mmol, 12 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | potassium iodide | 9.0 mmol, 1.5 g | [I-].[K+]
reactant | potassium carbonate | 71.6 mmol, 9.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl ethyl ether | 89.3 mmol, 9.7 g | C(C)OCCCl | C4H9ClO
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 2-bromo-5-(2-ethoxyethoxy)-1,3-dimethylbenzene | 15.9 g, yield 98% | BrC1=C(C=C(C=C1C)OCCOCC)C | C12H17BrO2
